US05576322
(E)-2-(2-Ethoxycarbonyl-1-propenyl)-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline
0.52 g (0.013 mol) of sodium hydride was added to a solution of 4.00 g (0.0117 mol) of 2-formyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline in 250 ml of tetrahydrofuran. 2.8 ml (0.013 mol) of triethyl 2-phosphonopropionate was dropped into the mixture prepared above under stirring and cooling with ice. The mixture thus prepared was stirred under cooling with ice for a while, heated to room temperature and stirred for additional one hour, followed by the addition of 1.5 ml of 8M hydrochloric acid/ethanol. The obtained mixture was passed through a small amount of silica gel and distilled under a reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane) and recrystallized from chloroform/n-hexane to give 2.00 g of the title compound.

reactant | sodium hydride | 0.013 mol, 0.52 g | [H-].[Na+]
reactant | 2-formyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 0.0117 mol, 4.00 g | C(=O)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C17H12ClN3O3
reactant | triethyl 2-phosphonopropionate | 0.013 mol, 2.8 ml | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | hydrochloric acid ethanol | 8M, 1.5 ml | Cl.C(C)O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | (E)-2-(2-Ethoxycarbonyl-1-propenyl)-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 2.00 g, yield(%); 40 | C(C)OC(=O)/C(=C/C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl)/C | C22H20ClN3O4
